US07795437B2
Thiophene-2-carboxylic acid trans(4-{2-[4-(4-cyano-2-fluoro-Phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
According to the synthesis of example 1, the title compound was prepared from Trans 4-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yloxy}-3-fluoro-benzonitrile and Thiophene-2-carboxylic acid. Preparative HPLC on reversed phase eluting with acetonitrile/water yielded the title compound. MS (m/e): 456.3 (M+H+).

reactant | Trans 4-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yloxy}-3-fluoro-benzonitrile | N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)OC1=C(C=C(C#N)C=C1)F | C20H28FN3O
reactant | Thiophene-2-carboxylic acid | S1C(=CC=C1)C(=O)O | C5H4O2S
product | Thiophene-2-carboxylic acid trans(4-{2-[4-(4-cyano-2-fluoro-Phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | C(#N)C1=CC(=C(OC2CCN(CC2)CC[C@@H]2CC[C@H](CC2)NC(=O)C=2SC=CC2)C=C1)F | C25H30FN3O2S
